US04650604
A suspension of methyltriphenylphosphonium bromide (1.15 mole) and potassium tert-butylate (1.33 moles) in 1 liter toluene was stirred for 1 hour at room temperature. 1.0 mole of ethylvanillin was added to the ylide thus formed. The reaction mixture was stirred for another hour and then washed with dilute hydrochloride acid. The solution was concentrated by evaporation and the residue distilled under reduced pressure. In this way 2-ethoxy-4-vinylphenol was obtained in a yield of 55%. Boiling point: 75° C./15 Pa.

reactant | potassium tert-butylate | 1.33 moles | CC(C)(C)[O-].[K+]
reactant | ethylvanillin | 1.0 mole | O=CC1=CC(OCC)=C(O)C=C1 | C9H10O3
catalyst | methyltriphenylphosphonium bromide | 1.15 mole | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxy-4-vinylphenol | yield of 55% | C(C)OC1=C(C=CC(=C1)C=C)O | C10H12O2
